US05876698
a) 2,3-Epoxy-1-[4-(2-ethoxycarbonylethyl)-phenoxy]-propane
3.56 g (148.5 mmol) of sodium hydride is added to 24.03 g (123.74 mmol) of 2-(4-hydroxyphenyl)-propanoic acid ethyl ester in 400 ml of dimethylformamide and stirred for 1 hour at room temperature (under nitrogen). 34.35 g (371.22 mmol) of epichlorohydrin is added and then heated for 24 hours at 70° C. It is cooled in an ice bath to 0° C. and 800 ml of water is carefully added. Then, it is extracted twice with 350 ml of ether each. The combined ether phases are washed once with 300 ml of water, dried on magnesium sulfate and concentrated by evaporation in a vacuum. The residue is chromatographed on silica gel (mobile solvent: hexane/ethyl acetate=20:1)

reactant | sodium hydride | 148.5 mmol, 3.56 g | [H-].[Na+]
reactant | 2-(4-hydroxyphenyl)-propanoic acid ethyl ester | 123.74 mmol, 24.03 g | C(C)OC(C(C)C1=CC=C(C=C1)O)=O | C11H14O3
reactant | epichlorohydrin | 371.22 mmol, 34.35 g | C(Cl)C1CO1 | C3H5ClO
reactant | water | 800 ml | O | H2O
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 2,3-Epoxy-1-[4-(2-ethoxycarbonylethyl)-phenoxy]-propane | O1C(COC2=CC=C(C=C2)CCC(=O)OCC)C1 | C14H18O4
